US06821960B2
3-Benzyloxycarbonylamino-2,2-difluoropropionic acid methyl ester (3.3 g, 12.1 mmol), THF (50 ml), methanol (50 ml) and 1 N sodium hydroxide solution (50ml) were mixed and stirred for 16 hours at room temperature. After adjusting the pH to acidic reaction and removal of organic solvent by evaporation, the aqueous residue was extracted twice with ethyl acetate. The combined organic layers were washed twice with 5% brine, dried over magnesium sulphate and filtered through a short silica column before concentration in vacuo to afford 2.6 g (83%) of 3-benzyloxycarbonylamino-2,2-difluoropropionic acid as an oil.

reactant | 3-Benzyloxycarbonylamino-2,2-difluoropropionic acid methyl ester | 12.1 mmol, 3.3 g | COC(C(CNC(=O)OCC1=CC=CC=C1)(F)F)=O | C12H13F2NO4
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | sodium hydroxide | 1 N, 50ml | [OH-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 3-benzyloxycarbonylamino-2,2-difluoropropionic acid | 2.6 g, 83% | C(C1=CC=CC=C1)OC(=O)NCC(C(=O)O)(F)F | C11H11F2NO4
